US06060488
1-Hexyl-3-Piperidine Methanol
3-Piperidine methanol (2.30 g, 20 mmol) and 1-iodohexane (1.5 mL, 10 mmol) were converted to product by the procedure of Preparation 1 to yield 1.866 g (47%) of the title compound which was used without further purification. 1H NMR consistent with desired product.

reactant | 3-Piperidine methanol | 20 mmol, 2.30 g | N1CC(CCC1)CO | C6H13NO
reactant | 1-iodohexane | 10 mmol, 1.5 mL | ICCCCCC | C6H13I
product | 1-Hexyl-3-Piperidine Methanol | 1.866 g, 47% | C(CCCCC)N1CC(CCC1)CO | C12H25NO
